US07662972B2
Step 3: Production of 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]benzoic acid.
In a solution of 3.99 g of 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]benzoic acid methyl ester in 50 ml of methanol, a solution of 2.00 g of potassium hydroxide in 25 ml of water was added, stirred at room temperature for 3 days and then at 40° C. for 5 hours. After the completion of the reaction, the reaction mixture was cooled with ice, and poured in 200 ml of water, and adjusted to pH 1-2 with concentrated hydrochloric acid, and then extracted with ethyl acetate (50 ml×2), the organic phase was washed with water, dehydrated with saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate, and then the solvent was distilled off under reduced pressure to obtain 3.87 g of the aimed product as pale yellow crystal.

reactant | 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]benzoic acid methyl ester | 3.99 g | COC(C1=CC=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)=O | C18H12Cl2F3NO3
reactant | potassium hydroxide | 2.00 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
solvent | water | 25 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]benzoic acid | 3.87 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC=C(C(=O)O)C=C1)C(F)(F)F | C17H10Cl2F3NO3
